US07470679B2
(R)-benzyl 9-(1-acetylpiperidin-4-yl)-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-ylcarbamate
(R)-benzyl 8-oxo-9-(piperidin-4-yl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-ylcarbamate methanesulfonate (100 mg, 0.19 mmol) was dissolved in a mixture of dichloromethane (4 mL) and triethylamine (500 μL, 3.6 mmol). Acetic anhydride (500 μL, 5.3 mmol) was added to the mixture. Reaction stirred at room temperature overnight. Reaction mixture was washed successively 1× water, 2× 1N hydrochloric acid, 2× 1N sodium hydroxide, and 1× brine. Organic was dried (magnesium sulfate), and filtered. Filtrate was concentrated in vacuo. Residue was treated with methanol (3 mL). Potassium carbonate (40 mg, 0.29 mmol) was added to the mixture. Reaction stirred at room temperature for 2 hours. Reaction was quenched with 1N hydrochloric acid (6 mL). Methanol was removed from the mixture in vacuo. Remaining aqueous mixture was made basic with sodium bicarbonate. Mixture was extracted with ethyl acetate. Organic layer was dried (magnesium sulfate), filtered and concentrated. Title compound was obtained as yellow solid in 43% yield. MS m/e (M+H)+=476.

reactant | (R)-benzyl 8-oxo-9-(piperidin-4-yl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-ylcarbamate methanesulfonate | 0.19 mmol, 100 mg | CS(=O)(=O)O.O=C1[C@@H](CC2=C(C=3C=NNC3C=C2)CN1C1CCNCC1)NC(OCC1=CC=CC=C1)=O
reactant | triethylamine | 3.6 mmol, 500 μL | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 5.3 mmol, 500 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Potassium carbonate | 0.29 mmol, 40 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (R)-benzyl 9-(1-acetylpiperidin-4-yl)-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-ylcarbamate | 43% yield | C(C)(=O)N1CCC(CC1)N1CC=2C=3C=NNC3C=CC2C[C@H](C1=O)NC(OCC1=CC=CC=C1)=O | C26H29N5O4
